US08053591B2
Benzyloxy-acetic acid 5-chloro-2-(2,4-dichloro-phenoxy)-phenyl ester
To a mixture of triclosan (7.53 grams, 26 mmol) and triethylamine (8.2 grams, 81 mmol) in acetone (50 mL) at 0° C. was added benzyloxy acetyl chloride (10 grams, 54.2 mmol) drop wise. The reaction mixture was stirred at room temperature for 18 hours. Solids were filtered off and poured onto cold water (100 mL). Crude 4 was extracted into chloroform, washed with 5% sodium bicarbonate solution (2×50 mL), and water (2×50 mL). The chloroform layer was dried over sodium sulphate and distilled off to get crude 4.

reactant | triclosan | 26 mmol, 7.53 grams | C1=CC(=C(C=C1Cl)O)OC=2C=CC(=CC2Cl)Cl | C12H7Cl3O2
reactant | triethylamine | 81 mmol, 8.2 grams | C(C)N(CC)CC | C6H15N
reactant | benzyloxy acetyl chloride | 54.2 mmol, 10 grams | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | Benzyloxy-acetic acid 5-chloro-2-(2,4-dichloro-phenoxy)-phenyl ester | ClC=1C=CC(=C(C1)OC(COCC1=CC=CC=C1)=O)OC1=C(C=C(C=C1)Cl)Cl | C21H15Cl3O4
